US08048909B2
N-Methyl-1-[4-methyl-5-phenyl-1-(phenylsulfonyl)-1H-pyrrol-3-yl]methanamine hydrochloride
A solution (20 mL) of methyl 4-methyl-5-phenyl-1-(phenylsulfonyl)-1H-pyrrole-3-carboxylate (920 mg) in tetrahydrofuran was cooled to −78° C., a 1.5 mol/L toluene solution (6.3 mL) of diisobutylaluminum hydride was added dropwise, and the mixture was further stirred at −78° C. for 30 min. 1 mol/L Hydrochloric acid (25 mL) was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. A solution (20 mL) of the residue in acetonitrile was cooled to 0° C., tetra-n-propylammonium perruthenate (110 mg), N-methylmorpholine N-oxide (554 mg) and molecular sieves 4A powder (2.0 g) were added, and the mixture was stirred at room temperature for 2 hr. The reaction mixture was concentrated under reduced pressure, the residue was suspended in ethyl acetate, and the mixture was filtered through celite. The filtrate was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (eluent: hexane-ethyl acetate=9:1→2:1) to give 4-methyl-5-phenyl-1-(phenylsulfonyl)-1H-pyrrole-3-carbaldehyde as a brown oil (yield 461 mg, 55%). 4-Methyl-5-phenyl-1-(phenylsulfonyl)-1H-pyrrole-3-carbaldehyde (460 mg) was dissolved in methanol (25 mL), and methylammonium chloride (952 mg) and sodium cyanoborohydride (266 mg) were added. The mixture was stirred at room temperature for 1 hr, and concentrated under reduced pressure. The residue was dissolved in water, and the solution was alkalized with a saturated aqueous sodium hydrogencarbonate solution and extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by basic silica gel column chromatography (eluent: hexane-ethyl acetate=9:1→ethyl acetate). The obtained oil was dissolved in ethyl acetate (5 mL), and a 4 mol/L hydrogen chloride-ethyl acetate solution (0.5 mL) was added. The precipitated crystal was collected by filtration, and vacuum-dried to give the title compound as a colorless solid (yield 196 mg, 37%).

reactant | 4-Methyl-5-phenyl-1-(phenylsulfonyl)-1H-pyrrole-3-carbaldehyde | 460 mg | CC=1C(=CN(C1C1=CC=CC=C1)S(=O)(=O)C1=CC=CC=C1)C=O | C18H15NO3S
reactant | methylammonium chloride | 952 mg | [Cl-].C[NH3+]
reactant | sodium cyanoborohydride | 266 mg | C(#N)[BH3-].[Na+]
solvent | methanol | 25 mL | CO | CH4O
product | N-Methyl-1-[4-methyl-5-phenyl-1-(phenylsulfonyl)-1H-pyrrol-3-yl]methanamine hydrochloride | yield 196 mg, 37% | Cl.CNCC1=CN(C(=C1C)C1=CC=CC=C1)S(=O)(=O)C1=CC=CC=C1 | InChI=1S/C19H20N2O2S.ClH/c1-15-17(13-20-2)14-21(19(15)16-9-5-3-6-10-16)24(22,23)18-11-7-4-8-12-18;/h3-12,14,20H,13H2,1-2H3;1H
